US09193689B2
1-Chloro-ethyl chloroformate (97 mg, 0.68 mmol) in 1,2-dichloroethane (0.3 mL) was added to a solution of 3-[4-(2-dimethylamino-ethoxy)-phenyl]-5-methyl-2H-isoquinolin-1-one (35 mg, 0.109 mmol) in 1,2-dichloroethane (0.6 mL) at cooled to 0° C., and stirred for 10 min. The reaction mixture was irradiated using a microwave (300 W, 180° C., 15 min) then concentrated in vacuo and EtOH (0.8 mL) added. The reaction mixture was heated at 80° C. for 15 h, allowed to cool and passed through a SCX-2 cartridge (1 g), eluting with 0.5M NH3 in MeOH. The crude material was concentrated in vacuo and purified by reverse phase preparative HPLC-MS to afford 5-methyl-3-[4-(2-methylamino-ethoxy)-phenyl]-2H-isoquinolin-1-one as a white solid (4 mg, 12%).

reactant | 1-Chloro-ethyl chloroformate | 0.68 mmol, 97 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 3-[4-(2-dimethylamino-ethoxy)-phenyl]-5-methyl-2H-isoquinolin-1-one | 0.109 mmol, 35 mg | CN(CCOC1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)C | C20H22N2O2
solvent | 1,2-dichloroethane | 0.3 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 0.6 mL | ClCCCl | C2H4Cl2
product | 5-methyl-3-[4-(2-methylamino-ethoxy)-phenyl]-2H-isoquinolin-1-one | 4 mg, 12% | CC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C=C1)OCCNC | C19H20N2O2
